Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:11]([H:12])([H:13])[H:14],-1.83713732092
[H:1][O:2][C@:3]1([C:4]([H:5])([H:6])[H:7])[O:8][C@:9]1([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-0.152445138508
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],7.11686895142
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[O:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-3.36105050316
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:8],1.99698535572
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:8]([H:9])#[C:10][H:11].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7],1.12839740876
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([H:4])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:5],4.2111410197
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[O:11][H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10].[O:11][H:12],5.20827771253
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],1.95232585616
[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-6.741189200000001
[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[O:1]=[C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],1.06901880768
[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10],4.63391609557
[H:1][C:2]1[O:3][C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]1([H:11])[H:12]>>[H:1][C:5](=[C:4]([O:3][C:2]#[C:10][C:6]([H:7])([H:8])[H:9])[H:11])[H:12],-0.8170596267199999
[H:1][C:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:2]#[C:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:6]=[C:3]([H:4])[H:5],2.36878786927
[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([H:3])[O:4],4.34191408086
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:10].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:11][H:12],1.88893048432
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[H:1][O:2],6.52217121698
[H:1][O:2][C:3][C:4]1[O:5][C:6]1([H:7])[H:8]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8],0.53384764987
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],1.52534464674
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([O:9][H:10])=[C:11]([H:12])[H:13].[H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-1.31045935464
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6],1.94018715491
[H:1][O:2][C:3]([H:4])=[C:5]=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-3.09579100418
[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])=[C:9][H:10]>>[H:1][C:2]#[C:3][H:4].[O:5][O:6][C:7]([H:8])=[C:9][H:10],0.35550589163900004
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]#[C:10][H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],-2.71626150803
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.667744387216
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2][O:3][C:4]#[C:5],5.59173298495
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]1([H:8])[C:9][O:10][C:11]1([H:12])[H:13]>>[C:7]1([H:8])[C:9][O:10][C:11]1([H:12])[H:13].[H:1][C:2][C:3]([H:4])([H:5])[H:6],3.85284650633
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[O:1]=[C:2]1[C:3]2[C:4]([H:5])([H:6])[C@@:7]12[O:8][H:9],-0.19333346581
